US06696473B2
A. Preparation of 2-Methylthio-6-(trifluoroacetoamido)benzothiazole
To a suspension of 6-amino-2-mercaptobenzothiazole (550 mg, 3.0 mmol) in anhydrous MeCN (15 mL) was added TEA (0.9 mL) and methyl p-toluenesulfonate (0.45 mL, 3.0 mmol) at ambient temperature. The mixture turned to a clear solution after a few minutes and was stirred at ambient temperature for 3 h. To the above solution was added dropwise TFAA (0.65 mL, 4.6 mmol). After 12 h the solution was concentrated under reduced pressure, diluted with EtOAc, washed with water and brine, dried over Na2SO4 and concentrated. The resulting residue was purified by chromatography on silica gel, eluting with EtOAc-Hex (0:100 to 10:90) to give the title compound (575 mg, 66%) as a white solid. 1H-NMR (CDCl3): δ 8.31 (1H, d), 7.99 (1H, br s), 7.84 (1H, d), 7.35 (1H, dd), 2.80 (3H, s).

reactant | 6-amino-2-mercaptobenzothiazole | 3.0 mmol, 550 mg | NC1=CC2=C(N=C(S2)S)C=C1 | C7H6N2S2
reactant | methyl p-toluenesulfonate | 3.0 mmol, 0.45 mL | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
reactant | TFAA | 4.6 mmol, 0.65 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | MeCN | 15 mL | CC#N | C2H3N
product | 2-Methylthio-6-(trifluoroacetoamido)benzothiazole | 575 mg, 66% | CSC=1SC2=C(N1)C=CC(=C2)NC(C(F)(F)F)=O | C10H7F3N2OS2
